US07301022B2
(2S,5R)-N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-5-phenylpyrrolidine-2-carboxamide
(2S,5R)-tert-Butyl 2-((2-(6-(2-acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)carbamoyl)-5-phenylpyrrolidine-1-carboxylate, Example 58, (575 mg, 0.8 mmol) was reacted with TFA under the condition of Example 3(c) to give the title compound as a white solid. MS (ESI, pos. ion.) m/z: 619 (M+1).

reactant | (2S,5R)-tert-Butyl 2-((2-(6-(2-acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)carbamoyl)-5-phenylpyrrolidine-1-carboxylate | C(C)(=O)NC=1SC2=C(N1)C(=CC=C2)OC2=CC(=NC=N2)C2=C(C=C(C=C2)C(F)(F)F)NC(=O)[C@H]2N([C@H](CC2)C2=CC=CC=C2)C(=O)OC(C)(C)C | C36H33F3N6O5S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2S,5R)-N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-5-phenylpyrrolidine-2-carboxamide | C(C)(=O)NC=1SC2=C(N1)C(=CC=C2)OC2=CC(=NC=N2)C2=C(C=C(C=C2)C(F)(F)F)NC(=O)[C@H]2N[C@H](CC2)C2=CC=CC=C2 | C31H25F3N6O3S
